US04122186
(1) 2,4-Dichlorobenzylthio-acetic acid
15.2 g (0.2 mol) of thiourea in 100 ml of water are introduced into a 1 liter 3-necked flask. The mixture is heated to 50°-60° C. and 39.1 g (0.2 mol) of 2,4-dichlorobenzylchloride are introduced in a single operation. The mixture is heated under reflux and boiling is maintained for 15 minutes; the solution becomes limpid. The mixture is cooled and a solution of 32 g (0.8 ml) of NaOH in 50 ml of water is introduced dropwise at about 60° C. The mixture is again heated under reflux for 30 minutes, cooled and a solution of about 0.28 mol of sodium chloroacetate (obtained by neutralising 26.46 g of chloroacetic acid in 200 ml of water with 23.52 g of NaHCO3) is introduced, dropwise, at 60°-70° C. The whole is then heated under reflux for 30 minutes, cooled, filtered and acidified with 3N HCl; the precipitate obtained is filtered off and redissolved cold in dilute sodium bicarbonate solution, and this solution is washed with methylene chloride, filtered and again acidified. 41.7 g (yield: 83%) of product are thus collected. Instantaneous melting point: 72°-73° C.

reactant | thiourea | 0.2 mol, 15.2 g | NC(=S)N | CH4N2S
reactant | 2,4-dichlorobenzylchloride | 0.2 mol, 39.1 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | NaOH | 0.8 ml, 32 g | [OH-].[Na+]
reactant | sodium chloroacetate | about 0.28 mol, 200 ml, 26.46 g | ClCC(=O)[O-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 2,4-Dichlorobenzylthio-acetic acid | 41.7 g, yield: 83% | ClC1=C(CCC(=S)O)C=CC(=C1)Cl | C9H8Cl2OS
